US05536745
a) 2.5-Dibromo-4-acetoxymethylpyridine
2.5-Dibromo-4-methylpyridine(26.06 g, 103.8 mmol) and N-bromosuccinimide (27.72 g, 155.7 mmol) in carbon tetrachloride (500 ml) were heated to reflux over a 150 W light bulb for 2 h. Cooling to 5° C., filtration and evaporation to dryness under reduced pressure gave the crude brominated products which were treated with potassium acetate (66.0 g, 673 mmol) and 18-crown-6 (3.00 g, 11.4 mmol) in acetonitrile (500 ml) at room temperature for 40 h. Filtration and evaporation of the filtrate to dryness gave the crude products which were dissolved in ethyl acetate, washed with saturated aqueous potassium bromide solution, the organic phase dried (Na2SO4) and evaporated to dryness under reduced pressure with purification by flash chromatography using hexane/ethyl acetate (6:1) as eluent giving the title compound (6.56 g. 19%) as a white solid: δH (CDCl3), 2.22 (3H, s, CH3), 5.12 (2H, s, CH2OAc), 17.50 (1H, s, 3-H), 18.45 (1H, s, 6-H); m/z (E.I.) 308 (MH+, 3%), 230 (100%): (Found: M+, 307.8926. C8H8NO2Br requires M. 307.89221.

reactant | 2.5-Dibromo-4-methylpyridine | 103.8 mmol, 26.06 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | N-bromosuccinimide | 155.7 mmol, 27.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium acetate | 673 mmol, 66.0 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6 | 11.4 mmol, 3.00 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2.5-Dibromo-4-acetoxymethylpyridine | 6.56 g, 19% | BrC1=NC=C(C(=C1)COC(C)=O)Br | C8H7Br2NO2
